2201-06-04 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 NASAL SWAB - At [**2201-6-4**] 02:00 AM
 ARTERIAL LINE - START [**2201-6-4**] 04:00 AM
   intubated
   hypotension to 70s responded to IVF
   a line placed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2201-6-3**] 10:47 PM
   Vancomycin - [**2201-6-3**] 11:00 PM
   Levofloxacin - [**2201-6-4**] 06:00 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2201-6-3**] 11:09 PM
   Midazolam (Versed) - [**2201-6-4**] 12:15 AM
   Fentanyl - [**2201-6-4**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-6-4**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 82 (76 - 115) bpm
   BP: 81/39(51) {81/39(51) - 106/48(66)} mmHg
   RR: 16 (15 - 34) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    300 mL
                                                                  1,698 mL
   PO:
             TF:
   IVF:
                                                                    300 mL
                                                                  1,698 mL
   Blood products:
   Total out:
                                                                    550 mL
                                                                    615 mL
   Urine:
                                                                    550 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -250 mL
                                                                  1,083 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 1,059 (1,059 - 1,059) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 25 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.47/40/136/26/5
   Ve: 11.6 L/min
   PaO2 / FiO2: 272
   Physical Examination
   GENERAL: intubated, responds to pain stimuli
   HEENT: MM dry, OP clear
   CARDIAC: RRR, nl S1/S2, no M/R/G
   LUNG: CTAB.
   ABDOMEN: Soft, NT, ND, +BS, colostomy bag in place, surgical wound on L
   flank.
   EXT: No edema b/l
   NEURO: Occasional myotonic jerks, responds to pain stimuli
   Labs / Radiology
   408 K/uL
   8.1 g/dL
   84 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   22 mg/dL
   104 mEq/L
   140 mEq/L
   24.6 %
   12.2 K/uL
        [image002.jpg]
                             [**2201-6-3**]  11:17 PM
                             [**2201-6-3**]  11:49 PM
                             [**2201-6-4**]  03:34 AM
                             [**2201-6-4**]  05:33 AM
                             [**2201-6-4**]  05:43 AM
   WBC
   13.4
   12.2
   Hct
   29.2
   24.6
   Plt
   418
   408
   Cr
   0.9
   0.8
   TCO2
   34
   23
   30
   Glucose
   108
   84
   Other labs: PT / PTT / INR:16.2/29.8/1.4, Differential-Neuts:93.4 %,
   Lymph:2.7 %, Mono:2.7 %, Eos:0.8 %, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.0 mg/dL
   Assessment and Plan
   -year-old man with recent aortic aneurysm repair ([**1-/2201**]), complicated
   by ischemic bowel and sepsis with subsequent wound dehiscence, also
   with h/o CAD s/p CABG who is transferred from the medical floor for
   hypoxia and hypercapnia.
   # Hypercarbic respiratory failure: with severe hypercapnia and
   significant respiratory acidosis(ABG 7.16/91/133) requiring intubation.
   Most likely from pneumonia with LLL infiltrate seen on CXR,
   leukocytosis of [**Numeric Identifier 3984**] with left shift. PE is less likely than PNA and
   no physical exam findings to support pulmonary edema.  CTA negative for
   PE. WBCs improving.
   - continue ventilatory support, wean sedation as tolerated, wean
   FiO2/PEEP
   - continue vancomycin and pip-tazo; consider broadening to [**Last Name (un) 614**] if
   spikes or wbcs.
   - f/u blood culture, urine legionella ag, sputum cx
   - Pleural effusion: ?parapneumonic effusion- consider thoracentesis in
   a.m. although only moderate pleural effusion.
   - r/o H1N1
   - if bcx positive will check ECHO
   # Hypotension: baseline SBP likely in 90s-100s; slightly lower in 80s
   this evening. Concerning for sepsis given ongoing pneumonia and recent
   wound infections. Most likely related to hypovolemia and effect of
   sedative meds. Lactate 0.7
   - IVF
   - monitor BP closely
   - hold BB
   - antibiotics as above
   # CAD: ECG unchanged from prior. CABG in [**2184**]. Multiple PCI. No active
   issues or complaints.
   - f/u CE
   - continue aspirin, statin
   - hold metoprolol in the setting of hypotension
   - consider ECHO
   # Recent AAA repair, colectomy, wound infections: being followed by
   surgery
   - f/u surgery recs
   - continue vancomycin and pip-tazo empirically
   # Hyperlipidemia:
   - continue statin.
   # HTN:
   - hold metoprolol given recent hypotensive episodes
   # Cervical Myelopathy: Baseline. Continue pain control
   # FEN: NPO for now / IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL
   # CONTACT: wife [**Telephone/Fax (1) 7805**]
   # DISPO: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-6-3**] 10:32 PM
   Arterial Line - [**2201-6-4**] 04:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-06-05 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 79 year-old man with recent aortic aneurysm repair
   ([**1-/2201**]), complicated by ischemic bowel and sepsis with subsequent
   wound dehiscence, also with h/o CAD s/p CABG who is transferred from
   the medical floor for hypoxia and hypercapnia.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2201-6-4**] 08:40 AM
 ARTERIAL LINE - STOP [**2201-6-4**] 08:50 PM
   - CTAP: RP space 30% larger, hematoma versus fluid collection.  No
   abscess but possibly loculated.
   - CTH: No acute intracranial hemorrhage.
   - TTE: Mild LVH and global hypokinesis with mild depressed systolic
   function. RV size and motion normal. Significant pulmonary regurg seen.
   Normap PASP.
   - Ultrasound of effusions without significant pocket amenable for
   thoracentesis.
   - Bronch deferred.
   - Influenza DFA negative, droplet precautions d/c'd.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2201-6-3**] 10:47 PM
   Levofloxacin - [**2201-6-4**] 06:00 AM
   Vancomycin - [**2201-6-4**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2201-6-5**] 12:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-6-5**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-6-5**] 07:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.7
   HR: 88 (73 - 97) bpm
   BP: 88/47(57) {85/38(47) - 107/56(69)} mmHg
   RR: 16 (16 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  5,058 mL
                                                                    107 mL
   PO:
             TF:
   IVF:
                                                                  3,918 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  2,200 mL
                                                                    355 mL
   Urine:
                                                                  1,250 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,858 mL
                                                                   -248 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 226 (226 - 226) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 78
   PIP: 22 cmH2O
   Plateau: 13 cmH2O
   Compliance: 68.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/39/95.[**Numeric Identifier 218**]//2
   Ve: 8.6 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   408 K/uL
   8.1 g/dL
   84 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.8 mEq/L
   22 mg/dL
   104 mEq/L
   140 mEq/L
   24.6 %
   12.2 K/uL
        [image002.jpg]
                             [**2201-6-3**]  11:17 PM
                             [**2201-6-3**]  11:49 PM
                             [**2201-6-4**]  03:34 AM
                             [**2201-6-4**]  05:33 AM
                             [**2201-6-4**]  05:43 AM
                             [**2201-6-4**]  01:31 PM
   WBC
   13.4
   12.2
   Hct
   29.2
   24.6
   Plt
   418
   408
   Cr
   0.9
   0.8
   TropT
   0.30
   TCO2
   34
   23
   30
   28
   Glucose
   108
   84
   Other labs: PT / PTT / INR:16.2/29.8/1.4, CK / CKMB /
   Troponin-T:18//0.30, Differential-Neuts:93.4 %, Lymph:2.7 %, Mono:2.7
   %, Eos:0.8 %, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   79 year-old man with recent aortic aneurysm repair ([**1-/2201**]),
   complicated by ischemic bowel and sepsis with subsequent wound
   dehiscence, also with h/o CAD s/p CABG who is transferred from the
   medical floor for hypoxia and hypercapnia.
   # Hypercarbic respiratory failure: with severe hypercapnia and
   significant respiratory acidosis(ABG 7.16/91/133) requiring intubation.
   Most likely from pneumonia with LLL infiltrate seen on CXR,
   leukocytosis of [**Numeric Identifier 3984**] with left shift. PE is less likely than PNA and
   no physical exam findings to support pulmonary edema.  CTA negative for
   PE. WBCs improving.  AC 0.5/550/16/5
   - bronch to eval for TBM (s/p intubation)
   - continue ventilatory support, wean sedation as tolerated, wean
   FiO2/PEEP
   - continue vancomycin and pip-tazo; consider broadening to [**Last Name (un) 614**] if
   spikes or wbcs.  Vanc/zosyn/levo [**6-2**] (levo stopped and restarted yest
   for poss legionella)
   - f/u blood culture, urine legionella ag, sputum cx
   - Pleural effusion: ?parapneumonic effusion, ?empyema- thoracentesis.
   - r/o H1N1
   - f/u ECHO
   a.       shunting from pleural effusions and bilateral LL collapse;
   b.       Possible PNA, though radiographically underwhelming
   c.        Malacia or tracheal lesion related to prior intubation/trach?
   d.       CNS
   2.       Delirium (pre-intubation)
   3.       Anemia
   4.       Complex background history
   a.       Peripheral vascular disease
   b.       Aortic vascular disease
   c.        Coronary arterial disease
   d.       Fungemia ([**2201-3-8**])
   e.       Complex pleural issues (pigtail catheter during recent
   hospitalization)
   3)       Bronch to evaluate airways including trachea, get good cx
   # Hypotension: baseline SBP likely in 90s-100s; slightly lower in 80s
   this evening. Concerning for sepsis given ongoing pneumonia and recent
   wound infections. Most likely related to hypovolemia and effect of
   sedative meds. Lactate 0.7
   - IVF
   - monitor BP closely
   - hold BB
   - antibiotics as above
   # CAD: ECG unchanged from prior. CABG in [**2184**]. Multiple PCI. No active
   issues or complaints.
   - f/u CE
   - continue aspirin, statin
   - hold metoprolol in the setting of hypotension
   - consider ECHO
   # Recent AAA repair, colectomy, wound infections: being followed by
   surgery
   - f/u surgery recs
   - continue vancomycin and pip-tazo empirically
   # Hyperlipidemia:
   - continue statin.
   # HTN:
   - hold metoprolol given recent hypotensive episodes
   # Cervical Myelopathy: Baseline. Continue pain control
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-6-3**] 10:32 PM
   22 Gauge - [**2201-6-4**] 06:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-06-06 07:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2201-6-5**] 12:36 PM
   via ETT Done with MICU attending Dr. [**Last Name (STitle) **] and RT
 ULTRASOUND - At [**2201-6-5**] 02:00 PM
 PICC LINE - START [**2201-6-5**] 04:30 PM
   [**6-4**]
   - CTAP: RP space 30% larger, hematoma versus fluid collection.  No
   abscess but possibly loculated.
   - CTH: No acute intracranial hemorrhage.
   - TTE: Mild LVH and global hypokinesis with mild depressed systolic
   function. RV size and motion normal. Significant pulmonary regurg seen.
   Normap PASP.
   - Ultrasound of effusions without significant pocket amenable for
   thoracentesis.
   - Bronch deferred.
   - Influenza DFA negative, droplet precautions d/c'd.
   [**6-5**]
   - did well on sbp in a.m. but was tired after getting ir picc placed
   and did poorly on sbp in p.m. (low Vt, high rr) so not extubated
   - bronched in a.m., no significant discharge
   - UE/LE ultrasounds neg for dvt
   - continued antibx though can prob be d/c'd
   - bolused overnight for low uop
   - low grade fever: pan cx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2201-6-3**] 10:47 PM
   Levofloxacin - [**2201-6-4**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2201-6-5**] 04:20 PM
   Vancomycin - [**2201-6-5**] 08:04 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-6-5**] 04:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-6-6**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.2
C (99
   HR: 76 (72 - 102) bpm
   BP: 84/51(59) {84/38(51) - 114/58(68)} mmHg
   RR: 16 (15 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,120 mL
                                                                    585 mL
   PO:
             TF:
                                                                     37 mL
                                                                     77 mL
   IVF:
                                                                  2,024 mL
                                                                    508 mL
   Blood products:
   Total out:
                                                                    771 mL
                                                                     77 mL
   Urine:
                                                                    721 mL
                                                                     77 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,349 mL
                                                                    508 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (500 - 550) mL
   Vt (Spontaneous): 483 (434 - 483) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 84
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: ///24/
   Ve: 8.5 L/min
   Physical Examination
   GENERAL: intubated, responds to pain stimuli
   HEENT: MM dry, OP clear
   CARDIAC: RRR, nl S1/S2, no M/R/G
   LUNG: CTAB.
   ABDOMEN: Soft, NT, ND, +BS, colostomy bag in place, surgical wound on L
   flank.
   EXT: No edema b/l
   NEURO: Occasional myotonic jerks, responds to pain stimuli
   Labs / Radiology
   421 K/uL
   8.8 g/dL
   79 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.5 mEq/L
   23 mg/dL
   101 mEq/L
   137 mEq/L
   27.0 %
   19.3 K/uL
        [image002.jpg]
                             [**2201-6-3**]  11:17 PM
                             [**2201-6-3**]  11:49 PM
                             [**2201-6-4**]  03:34 AM
                             [**2201-6-4**]  05:33 AM
                             [**2201-6-4**]  05:43 AM
                             [**2201-6-4**]  01:31 PM
                             [**2201-6-5**]  09:25 AM
   WBC
   13.4
   12.2
   19.3
   Hct
   29.2
   24.6
   27.0
   Plt
   [**Telephone/Fax (3) 7876**]
   Cr
   0.9
   0.8
   1.3
   TropT
   0.30
   0.82
   TCO2
   34
   23
   30
   28
   Glucose
   108
   84
   79
   Other labs: PT / PTT / INR:16.2/29.8/1.4, CK / CKMB /
   Troponin-T:20//0.82, Differential-Neuts:93.9 %, Lymph:2.0 %, Mono:2.6
   %, Eos:1.2 %, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   79 year-old man with recent aortic aneurysm repair ([**1-/2201**]),
   complicated by ischemic bowel and sepsis with subsequent wound
   dehiscence, also with h/o CAD s/p CABG who is transferred from the
   medical floor for hypoxia and hypercapnia.
   # Hypoxic/Hypercarbic respiratory failure: with severe hypercapnia and
   significant respiratory acidosis(ABG 7.16/91/133) requiring intubation
   at presentation.  [**Month (only) 51**] be secondary to an acute on chronic process with
   hypoxic respiratory failure secondary to pleural effusions and
   compressive atelectasis, and hypercapnic respiratory failure secondary
   to a combination of medical-related mental status changes (was on
   remeron), chest wall weakness, and abdominal wounds.
   - bronch to eval for pna though not consistent with imaging studies
   - continue ventilatory support, wean sedation as tolerated, wean
   FiO2/PEEP, attempt to extubate
   - continue vancomycin, pip-tazo ([**6-2**]-ongoing; day 3).
   - d/c levofloxacin given negative legionella
   - f/u blood culture, sputum cx
   - Pleural effusion too small for [**Female First Name (un) 217**]
   # Leukocytosis:  WBC 12 -> 19 and low-grade fever on morning of [**6-5**].
   No drainage from left flank wound.  No abscess on abdominal CT.  No
   clear source of infection.
   - cont vanc/zosyn for now
   - bronch as above
   - pan-culture
   - check c. diff
   - wound care consult to eval left flank wound
   - UE/LE ultrasound to r/o DVT
   # Hypotension: baseline SBP in 90s.  Initially concern for sepsis in
   setting of hypotension but low BP at baseline now clarified.
   - IVF prn
   - holding BB for now
   # CAD: ECG unchanged from prior. CABG in [**2184**]. Multiple PCI. No active
   issues or complaints.  ECHO with LVEF of 40%, global hypokinesis.
   - f/u CE
   - continue aspirin, statin
   - hold metoprolol in the setting of hypotension
   # Recent AAA repair, colectomy, wound infections: being followed by
   surgery
   - f/u surgery recs
   - continue vancomycin and pip-tazo empirically
   # Hyperlipidemia:
   - continue statin.
   # HTN:
   - hold metoprolol given recent hypotensive episodes
   # Cervical Myelopathy: Baseline. Continue pain control
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2201-6-5**] 08:20 PM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2201-6-5**] 04:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-06-06 08:20:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  79M AAA repair [**1-16**]
   Intubated 2 days ago
 effusion, atelectasis, weakness, recent
   abdominal surgery
   Bronch yesterday
   24 Hour Events:
 BRONCHOSCOPY - At [**2201-6-5**] 12:36 PM
   via ETT Done with MICU attending Dr. [**Last Name (STitle) **] and RT
 ULTRASOUND - At [**2201-6-5**] 02:00 PM
 PICC LINE - START [**2201-6-5**] 04:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2201-6-3**] 10:47 PM
   Levofloxacin - [**2201-6-4**] 06:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2201-6-5**] 04:20 PM
   Vancomycin - [**2201-6-5**] 08:04 PM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-6-5**] 04:40 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-6-6**] 08:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 76 (72 - 102) bpm
   BP: 84/51(59) {84/38(51) - 103/58(68)} mmHg
   RR: 16 (15 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                  2,120 mL
                                                                    592 mL
   PO:
             TF:
                                                                     37 mL
                                                                     83 mL
   IVF:
                                                                  2,024 mL
                                                                    508 mL
   Blood products:
   Total out:
                                                                    771 mL
                                                                     77 mL
   Urine:
                                                                    721 mL
                                                                     77 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,349 mL
                                                                    515 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PS 8/5
   Vt (Spontaneous): 350-400
   RR (Spontaneous): 0
   FiO2: 40%
   RSBI: 84
   Compliance: 50 cmH2O/mL
   SpO2: 99%
   ABG: ///24/
   Ve: 8.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   CXR this morning
   chest CT [**6-4**]  LLL collapse
   8.8 g/dL
   421 K/uL
   79 mg/dL
   1.3 mg/dL
   24 mEq/L
   4.5 mEq/L
   23 mg/dL
   101 mEq/L
   137 mEq/L
   27.0 %
   19.3 K/uL
                             [**2201-6-3**]  11:17 PM
                             [**2201-6-3**]  11:49 PM
                             [**2201-6-4**]  03:34 AM
                             [**2201-6-4**]  05:33 AM
                             [**2201-6-4**]  05:43 AM
                             [**2201-6-4**]  01:31 PM
                             [**2201-6-5**]  09:25 AM
   WBC
   13.4
   12.2
   19.3
   Hct
   29.2
   24.6
   27.0
   Plt
   [**Telephone/Fax (3) 7876**]
   Cr
   0.9
   0.8
   1.3
   TropT
   0.30
   0.82
   TCO2
   34
   23
   30
   28
   Glucose
   108
   84
   79
   Other labs: PT / PTT / INR:16.2/29.8/1.4, CK / CKMB /
   Troponin-T:20//0.82, Differential-Neuts:93.9 %, Lymph:2.0 %, Mono:2.6
   %, Eos:1.2 %, Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 leukocytosis
 continue antibiotics, follow cultures
 .H/O ALTERED MENTAL STATUS (NOT DELIRIUM)
 withhold sedation until
   he awakens
 RESPIRATORY FAILURE
 related to poor mental status, atelectasis,
   effusion, weakness
 will increase PEEP, keep left side up
 borderline hypotension, increase creatinine
 volume resuscitate
   ICU Care
   Nutrition: TF
   Nutren Pulmonary (Full) - [**2201-6-5**] 08:20 PM 10 mL/hour
   Lines:
   PICC Line - [**2201-6-5**] 04:30 PM
   Prophylaxis:
   DVT:  sc hep
   Stress ulcer:  on ppi
   VAP:  HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : icu
   Total time spent: 38

2201-06-07 07:50:00 Physician Attending Progress Note
Chief Complaint:   resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  remains on vent
   Hypotensive yesterday
 given IVF and PRBC
   Started on levophed
   24 Hour Events:
 URINE CULTURE - At [**2201-6-6**] 10:38 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2201-6-5**] 08:04 PM
   Piperacillin/Tazobactam (Zosyn) - [**2201-6-7**] 12:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2201-6-6**] 10:50 PM
   Fentanyl - [**2201-6-7**] 06:00 AM
   Midazolam (Versed) - [**2201-6-7**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-6-7**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 79 (74 - 102) bpm
   BP: 101/50(62) {72/37(46) - 125/91(95)} mmHg
   RR: 25 (14 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
           Total In:
                                                                  4,303 mL
                                                                  3,626 mL
   PO:
           TF:
                                                                    461 mL
                                                                     11 mL
   IVF:
                                                                  3,842 mL
                                                                  3,240 mL
   Blood products:
   375 mL
   Total out:
                                                                    134 mL
                                                                    122 mL
   Urine:
                                                                    134 mL
                                                                     22 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                  4,169 mL
                                                                  3,504 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 490 (368 - 490) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 15 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 25 cmH2O
   SpO2: 99%
   ABG: ///19/
   Ve: 8.6 L/min
   Physical Examination
   Intubated, unresponsive
   RRR
   Lung coarse vented bs
s, decreased left base
   Abd ostomy in place, benign
   Extrem no edema
   Labs / Radiology
   9.0 g/dL
   383 K/uL
   98 mg/dL
   2.4 mg/dL
   19 mEq/L
   4.5 mEq/L
   30 mg/dL
   109 mEq/L
   140 mEq/L
   28.3 %
   17.5 K/uL
        [image002.jpg]
                             [**2201-6-3**]  11:17 PM
                             [**2201-6-3**]  11:49 PM
                             [**2201-6-4**]  03:34 AM
                             [**2201-6-4**]  05:33 AM
                             [**2201-6-4**]  05:43 AM
                             [**2201-6-4**]  01:31 PM
                             [**2201-6-5**]  09:25 AM
                             [**2201-6-6**]  04:13 AM
                             [**2201-6-7**]  02:17 AM
   WBC
   13.4
   12.2
   19.3
   16.6
   17.5
   Hct
   29.2
   24.6
   27.0
   25.4
   28.3
   Plt
   [**Telephone/Fax (3) 7888**]71
   383
   Cr
   0.9
   0.8
   1.3
   2.1
   2.4
   TropT
   0.30
   0.82
   TCO2
   34
   23
   30
   28
   Glucose
   108
   84
   79
   79
   98
   Other labs: PT / PTT / INR:16.3/28.5/1.5, CK / CKMB /
   Troponin-T:20//0.82, ALT / AST:15/12, Alk Phos / T Bili:299/0.7,
   Differential-Neuts:94.3 %, Lymph:2.8 %, Mono:1.7 %, Eos:0.8 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.0 g/dL, LDH:108 IU/L, Ca++:7.9 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.8 mg/dL
   CXR persistent LLL infiltrates
   Assessment and Plan
 HYPOTENSION
 on levophed, wean as tolerated, continue to volume
   resuscitate
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 creatinine still
   rising, likely a combo of contrast and hypovolemia
 cont IVF
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 atelectasis, weakness,
   possible pna
 seems approaching  extubation, once he awakens, check
   gas and consider SBT
   ICU Care
   Nutrition: npo in anticipation of extubation
   Glycemic Control:
   Lines:
   PICC Line - [**2201-6-5**] 04:30 PM
   Prophylaxis:
   DVT:  sc hep, boots
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : icu
   Total time spent:   36

2201-06-12 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient extubated without issues.  He declared that he was DNR/DNI.
   - Wound culture grew out rare Corynebacterium species (diphteheroids).
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2201-6-11**] 10:11 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2201-6-11**] 08:30 AM
   Fentanyl - [**2201-6-11**] 10:00 AM
   Heparin Sodium (Prophylaxis) - [**2201-6-11**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Breathing comfortably, no complaints other than
   hoarse voice
   Flowsheet Data as of  [**2201-6-12**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.4
C (95.8
   HR: 78 (76 - 96) bpm
   BP: 131/72(86) {105/43(58) - 151/88(102)} mmHg
   RR: 27 (16 - 33) insp/min
   SpO2: 97%
   Heart rhythm: 1st AV (First degree AV Block)
   Height: 69 Inch
             Total In:
                                                                  1,451 mL
                                                                    140 mL
   PO:
             TF:
                                                                    401 mL
   IVF:
                                                                    930 mL
                                                                    140 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    460 mL
   Urine:
                                                                  1,265 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    186 mL
                                                                   -320 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 280 (280 - 280) mL
   PS : 5 cmH2O
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: 7.27/42/113/19/-7
   Ve: 7.8 L/min
   PaO2 / FiO2: 226
   Physical Examination
   General Appearance: NAD, voice hoarse
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: RRR, S1-S2 nl
   Respiratory / Chest: Mild rales at bases b/l
   Abdominal: Soft, nontender, BS+, left flank lesion with small amt of
   tan drainage on gauze
   Extremities: 1+ pitting edema b/l, DP pulses 2+
   Neurologic: AAO x 1.5 (person, year), able to move all extremities
   Labs / Radiology
   312 K/uL
   9.8 g/dL
   77 mg/dL
   2.4 mg/dL
   19 mEq/L
   4.9 mEq/L
   40 mg/dL
   116 mEq/L
   145 mEq/L
   31.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2201-6-8**]  02:26 PM
                             [**2201-6-9**]  02:46 AM
                             [**2201-6-9**]  03:11 AM
                             [**2201-6-9**]  05:38 AM
                             [**2201-6-9**]  03:36 PM
                             [**2201-6-10**]  04:30 AM
                             [**2201-6-10**]  05:59 PM
                             [**2201-6-11**]  05:46 AM
                             [**2201-6-11**]  10:20 AM
                             [**2201-6-12**]  02:58 AM
   WBC
   13.3
   8.0
   8.7
   9.1
   Hct
   26.5
   25.9
   27.9
   31.0
   Plt
   [**Telephone/Fax (3) 7995**]12
   Cr
   2.9
   2.9
   2.8
   2.4
   TCO2
   16
   17
   19
   19
   21
   20
   Glucose
   131
   103
   106
   77
   Other labs: PT / PTT / INR:16.3/28.5/1.5, CK / CKMB /
   Troponin-T:8//0.86, ALT / AST:15/12, Alk Phos / T Bili:299/0.7,
   Differential-Neuts:94.3 %, Lymph:2.8 %, Mono:1.7 %, Eos:0.8 %, Lactic
   Acid:0.5 mmol/L, Albumin:1.8 g/dL, LDH:108 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:6.7 mg/dL
   [**6-9**] wound cx: Rare growth corynebacterium spp. [**Date range (1) 7996**] bcx NGTD.
   Assessment and Plan
   79 year-old man with recent aortic aneurysm repair ([**1-/2201**]),
   complicated by ischemic bowel and sepsis with subsequent wound
   dehiscence, also with h/o CAD s/p CABG who is transferred from the
   medical floor for hypoxia and hypercapnia.
   # Hypoxic/Hypercarbic respiratory failure: [**Month (only) 51**] be secondary to an acute
   on chronic process with hypoxic respiratory failure secondary to
   pleural effusions and compressive atelectasis, and hypercapnic
   respiratory failure with evidence of critical illness neuromyopathy on
   EMG. Also likely contribution from medical-related mental status
   changes (was on remeron) and abdominal wounds.  Had been treated with
   vanc/zosyn empirically [**Date range (1) 7938**] for pneumonia but stopped as bacterial
   cx had been neg. Sucessfully extubated yesterday.
   - Wean O2 as tolerated
   - Pt DNR/DNI
   # Recent AAA repair, colectomy, wound infections: Followed by Surgery.
   Appears that left retroperitoneal abscess has drained spontaneously
   through left flank incision site. Zosyn restarted for broad coverage;
   vanco level supratherapeutic. Leukocytosis cont to improve and pt
   remains afebrile. Wound cx now growing rare corynebacterium.
   - Per ID no need to treat cornebacterium
   - Await surgery recs
   # Leukocytosis: Resolved and afebrile on vanc/zosyn for abscess with
   wound cx growing rare corynebacterium. Other cx NGTD.
   - Monitor
   - F/u pending cx (?OSH)
   # Anuric renal failure: Cr improved to 2.4 today with continued
   increasing U/O (50cc/h). Thought to be [**2-9**] contrast nephropathy post
   CTA with ATN. Renal u/s without hydronephrosis.
   - F/u renal recs
   - Will d/w pt if would proceed with HD; wife ambivalent
   # Hypotension: BP in 70s episodically with baseline in 90-100, likely
   in the setting of high PEEP (15) and sedation. Now resolved.
   - Pt restarted on home low-dose metoprolol
   - Address GOC re: pressors if future need
   # CAD: ECG unchanged from prior. CABG in [**2184**]. Multiple PCI. No active
   issues or complaints.  ECHO with LVEF of 40%, global hypokinesis. Trop
   elevation likely in setting of renal failure; CK flat.
   - Cont ASA, metoprolol
   - Restarted statin
   # Hyperlipidemia: Restarted statin
   # Cervical Myelopathy: Assess goals of care and feeding today as needs
   nutrition if consistent with goc but will not tolerate doboff.
   # AMS: Likely delirium in setting of acute illness.
   ICU Care
   Nutrition: NPO b/c failed speech/swallow
   Glycemic Control:
   Lines:
   PICC Line - [**2201-6-5**] 04:30 PM
   Arterial Line - [**2201-6-7**] 10:31 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: Call-out today after family meeting